US08871774B2
Formation of methyl 6-aminospiro[4.5]decane-7-carboxylate (61)
In a flask containing methyl 6-oxospiro[4.5]decane-7-carboxylate, 60, (4.10 g, 19.50 mmol) in MeOH (35 mL) was added ammonium acetate (10.52 g, 136.50 mmol) and NaCNBH3 (1.47 g, 23.40 mmol). The mixture was stirred at room temperature for 24 hrs. GCMS showed conversion to product SM (Rt=12.3 min, E+=211), product (Rt=12.6 min, ES+=212 [major] and Rt=12.45 min, ES+=212 [minor]). The solvent was evaporated, HCl (1N) was added and the aqueous phase was extracted with EtOAc. The organic phase was neutralized with NaOH (6N) to pH ˜10. The aqueous phase was extracted three times with EtOAc and twice with dichloromethane, dried over Na2SO4 to yield 1.6 g of product.

reactant | methyl 6-oxospiro[4.5]decane-7-carboxylate | O=C1C2(CCCC2)CCCC1C(=O)OC | C12H18O3
reactant | ammonium acetate | 136.50 mmol, 10.52 g | C(C)(=O)[O-].[NH4+]
reactant | NaCNBH3 | 23.40 mmol, 1.47 g | [BH3-]C#N.[Na+]
solvent | MeOH | 35 mL | CO | CH4O
product | methyl 6-aminospiro[4.5]decane-7-carboxylate | 1.6 g | NC1C2(CCCC2)CCCC1C(=O)OC | C12H21NO2
